US05532358
D) Preparation of 2-Chloro-N-(2-methoxy-4-methyl-3-pyridinyl)-3-pyridinecarboxamide
To a solution of 0.4 g (2.9 mmol) of 3-amino-2-methoxy-4-methylpyridine and 0.5 g (2.9 mmol) of 2-chloronicotinoyl chloride in EtOAc at 0° C. was added 0.4 g (3.0 mmol) of N,N-diisopropylethylamine. Stirring was continued for 10 h at which point the mixture was washed with 0.1N HCl , dried (MgSO4), concentrated and purified by flash chromatography on silica gel (1:1 EtOAc:hexanes) to yield 0.7 g (88%) of the desired material. m.p.: 145°-146° C. (Recrystallized from ethyl acetate).

reactant | 3-amino-2-methoxy-4-methylpyridine | 2.9 mmol, 0.4 g | NC=1C(=NC=CC1C)OC | C7H10N2O
reactant | 2-chloronicotinoyl chloride | 2.9 mmol, 0.5 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.4 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Chloro-N-(2-methoxy-4-methyl-3-pyridinyl)-3-pyridinecarboxamide | 0.7 g, 88% | ClC1=NC=CC=C1C(=O)NC=1C(=NC=CC1C)OC | C13H12ClN3O2
